US05684151
4,4a,5,6,7,7a-Hexahydro-3-phenyl-1-(4-methylbenzenesulfonyl)-1H-cyclopenta[c]pyridazine (Compound 156)
A catalytic amount of palladium on carbon was added to a solution of 3-phenyl-1-(4-tolylsulfonyl)-4,4a,5,7a-tetrahydro-1H-cyclopenta[c]pyridazine (0.5 g) in ethanol. The suspension was placed in a Parr Shaker apparatus under a H2 atmosphere (40 PSI) and shaken for 3 hours. The mixture was filtered through celite and concentrated. The resulting residue was purified by recrystallization from ethyl acetate to give the title compound as a solid: mp 171°-176° C.

reactant | 3-phenyl-1-(4-tolylsulfonyl)-4,4a,5,7a-tetrahydro-1H-cyclopenta[c]pyridazine | 0.5 g | C1(=CC=CC=C1)C=1CC2C(N(N1)S(=O)(=O)C1=CC=C(C=C1)C)C=CC2 | C20H20N2O2S
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 4,4a,5,6,7,7a-Hexahydro-3-phenyl-1-(4-methylbenzenesulfonyl)-1H-cyclopenta[c]pyridazine | C1(=CC=CC=C1)C=1CC2C(N(N1)S(=O)(=O)C1=CC=C(C=C1)C)CCC2 | C20H22N2O2S
